US04031102
8-Cyano-3-Methyl-5,6,7,8-tetrahydroquinoline
3-Methyl-5,6,7,8-tetrahydroquinoline-8-carboxamide (3.6 g.) in pyridine (54 ml.) was treated with P2Sl5 (7.56 g.) and the mixture heated at reflux with stirring for 3 hours. The solvent was removed under reduced pressure and the residue cooled in ice-water then made basic with 10% NaOH. The basic solution was extracted with chloroform (3 times) and the combined extracts extracted with 2NHCl (twice). The combined acid extracts were basified with solid sodium carbonate and extracted into chloroform (3 times). The combined chloroform extracts were washed with brine dried (MgSO4) and evaporated to give the title compound 1.7 g. This was converted to the hydrochloride by dissolving in ether and adding ethereal HCl. An oily residue was formed from which the supernatent liquid was decanted. The residue was triturated twice with dry ether and the remaining solid recrystallised from isopropyl alcohol giving the hydrochloride of the title compound m.p. 189° C. Analysis Found: C, 63,08; H, 6.26; N, 13.34%; C11H12N2HCl requires: C, 63,30; H, 6.28; N, 13.43%

reactant | 3-Methyl-5,6,7,8-tetrahydroquinoline-8-carboxamide | 3.6 g | CC=1C=NC=2C(CCCC2C1)C(=O)N | C11H14N2O
solvent | pyridine | 54 ml | N1=CC=CC=C1 | C5H5N
product | 8-Cyano-3-Methyl-5,6,7,8-tetrahydroquinoline | 1.7 g | C(#N)C1CCCC=2C=C(C=NC12)C | C11H12N2
